US06559145B2
5-(4-Morpholinylmethyl)-1,3,4-thiadiazol-2-ylamine [BL.2]
(4-Morpholinyl)acetic acid trifluoroacetic acid salt (1.0 g) and thiosemicarbazide (0.25g) are heated in polyphosphoric acid (2.0 g) at 70° C. for 1 h. The mixture is cooled to room temperature and basified with sodium carbonate, which is extracted with CH2Cl2. The organic layer is dried (MgSO4), concentrated, and the residue is chromatographed (CH2Cl2/methanol, 9/1) to give 150 mg of the title compound as a white solid. Physical characteristics: MS (ESI+) m/z 201 (M+H)+.

reactant | (4-Morpholinyl)acetic acid trifluoroacetic acid salt | 1.0 g | FC(C(=O)O)(F)F.N1(CCOCC1)CC(=O)O
reactant | thiosemicarbazide | 0.25g | NNC(=S)N | CH5N3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 5-(4-Morpholinylmethyl)-1,3,4-thiadiazol-2-ylamine | 150 mg | N1(CCOCC1)CC1=NN=C(S1)N | C7H12N4OS
